US06380215B1
To a solution of N-[(R)-(1-benzyloxycarbonyl-3-piperidyl)carbonyl]-2(S)-(tert-butoxycarbonylamino)-β-alanine ethyl ester (0.4 g) in ethyl acetate (4 ml) was added 4N HCl in ethyl acetate (2.1 ml) under stirring at 0° C. After stirring at ambient temperature for 2 hours, the resulting precipitates were collected by filtration to give N-[(R)-1-benzyloxycarbonyl-3-piperidyl)carbonyl]-2(S)-amino-β-alanine ethyl ester hydrochloride (0.31 g).

reactant | N-[(R)-(1-benzyloxycarbonyl-3-piperidyl)carbonyl]-2(S)-(tert-butoxycarbonylamino)-β-alanine ethyl ester | 0.4 g | C(C)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H35N3O7
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2.1 ml | C(C)(=O)OCC | C4H8O2
product | 2(S)-amino-β-alanine ethyl ester hydrochloride | 0.31 g | Cl.C(C)OC([C@H](CN)N)=O | InChI=1S/C5H12N2O2.ClH/c1-2-9-5(8)4(7)3-6;/h4H,2-3,6-7H2,1H3;1H/t4-;/m0./s1
